US04788207
Under a dry nitrogen atmosphere, a stirred solution of 0.80 gram (0.0030 mole) of 1-phenyl-2-[2-(thien-2-yl)thiazol-5-yl]ethyne in 20 ml of tetrahydrofuran was cooled to -78° C. A solution of n-butyllithium (1.4 ml of a 2.1M solution in hexane) was added, and the mixture was stirred at -78° C. for two hours. This mixture was transferred to another reaction flask containing a stirred solution of 0.65 gram (0.0060 mole) of ethyl chloroformate in 10 ml of tetrahydrofuran. This reaction mixture was allowed to warm slowly to room temperature and stir for approximately 18 hours. An aqueous, saturated ammonium chloride solution (20 ml) was added dropwise. The resultant mixture was extracted with diethyl ether. The organic extract was washed with water followed by an aqueous, saturated sodium chloride solution. The washed extract was dried over anhydrous sodium sulfate and was filtered. The filtrate was evaporated under reduced pressure leaving a residue. This residue was purified by column chromatography on silica gel, eluting with methylene chloride:n-hexane (3:2), to yield 0.82 gram of ethyl [5-[5-phenylethynylthiazol-2-yl]thien-2-yl]carboxylate as a solid, m.p. 137°-141° C., Compound 30 of Table 1.

reactant | 1-phenyl-2-[2-(thien-2-yl)thiazol-5-yl]ethyne | 0.0030 mole, 0.80 gram | C1(=CC=CC=C1)C#CC1=CN=C(S1)C=1SC=CC1 | C15H9NS2
reactant | n-butyllithium | C(CCC)[Li]
reactant | ethyl chloroformate | 0.0060 mole, 0.65 gram | ClC(=O)OCC | C3H5ClO2
reactant | ammonium chloride | 20 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | ethyl [5-[5-phenylethynylthiazol-2-yl]thien-2-yl]carboxylate | 0.82 gram | C1(=CC=CC=C1)C#CC1=CN=C(S1)C1=CC=C(S1)C(=O)OCC | C18H13NO2S2
